US08865704B2
2-Amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)cyclohexyl methyl]-5-methoxy-benzamide
To a solution of 6-Methoxy-1H-benzo[d][1,3]oxazine-2,4-dione (96 mg, 0.5 mmol) in CH3CN (5 mL) K2CO3 (140 mg, 1 mmol) and 1-[trans-4-(4-Aminomethyl-cyclohexanecarbonyl)-piperazin-1-yl]-2-methyl-propan-1-one (148 mg, 0.5 mmol) were added and the reaction was heated at 50° C. for 16 h. The solvent was removed under reduced pressure, 5 mL of 0.4M Na2CO3 solution were added and the mixture was stirred for 1 h. Then 5 mL of DCM were added, the organic phase collected, dried over Na2SO4 and the solvent removed under reduced pressure. 156 mg of the titled product were obtained (yield=68%).

reactant | 6-Methoxy-1H-benzo[d][1,3]oxazine-2,4-dione | 0.5 mmol, 96 mg | COC1=CC2=C(NC(OC2=O)=O)C=C1 | C9H7NO4
reactant | CH3CN | 1 mmol, 5 mL, 140 mg | CC#N | C2H3N
reactant | 1-[trans-4-(4-Aminomethyl-cyclohexanecarbonyl)-piperazin-1-yl]-2-methyl-propan-1-one | 0.5 mmol, 148 mg | NC[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C(C)C)=O | C16H29N3O2
product | 2-Amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)cyclohexyl methyl]-5-methoxy-benzamide | 156 mg, yield=68% | NC1=C(C(=O)NC[C@@H]2CC[C@H](CC2)C(=O)N2CCN(CC2)C(C(C)C)=O)C=C(C=C1)OC | C24H36N4O4
